US07482486B2
11.4 g (0.1 mol) of magnesium ethoxide solid was added to a magnetically stirred, clear, colorless solution of valproic acid (28.8 g; 0.2 mol; Sigma Aldrich Chemical Co.) in 25 mL of absolute ethanol. Residual solid was rinsed into the reaction with 5 mL of absolute ethanol to provide a total volume of 30 mL of absolute ethanol. Within 10 minutes, the slurry became very warm to the touch, and the color of the solution phase changed to pale yellow. Complete dissolution of the magnesium ethoxide solid in ethanol was never achieved, but within minutes the solid phase converted from a slurry of a yellow granular solid to a suspension of white solid that was so thick that stirring stopped. 100 mL of acetone was added, and the thick slurry was stirred for 10 minutes. The precipitate was isolated by filtration, washed with fresh acetone, and dried to constant weight. The product, magnesium valproate, was obtained in 66% yield. Elemental analysis (Table 1) indicated that the product was an inhomogeneous mixture of magnesium valproate and other magnesium salts. The theoretical valproate content (%) of magnesium valproate is 92.2%; the valproate content found by HPLC analysis was 78.4%.

reactant | magnesium ethoxide | 0.1 mol, 11.4 g | [O-]CC.[Mg+2].[O-]CC
reactant | valproic acid | 0.2 mol, 28.8 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | magnesium valproate | 66% yield | C(C(CCC)CCC)(=O)[O-].[Mg+2].C(C(CCC)CCC)(=O)[O-] | InChI=1S/2C8H16O2.Mg/c2*1-3-5-7(6-4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
